US08536157B2
(E)-6-Hydroxy-5-methoxy-2,3-dihydroinden-1-one O-4-Nitrobenzyl Oxime (1-TB-81)
6-Hydroxy-5-methoxy-1-indanone (114 mg, 0.64 mmol) was subjected to reaction with (4-nitrobenzyl)hydroxylamine hydrochloride (149 mg, 0.73 mmol) in ethanol (5 mL) and pyridine (0.6 mL, 7.74 mmol) under the same conditions as described for (E)-6,7-dimethoxy-3,4-dihydronaphthalen-1(2H)-one O-4-nitrobenzyl oxime. The solid obtained on work up was recrystallized (isopropanol) to yield the title compound (101 mg, 48%) as off-white crystals, m.p. 146-149° C.

reactant | 6-Hydroxy-5-methoxy-1-indanone | 0.64 mmol, 114 mg | OC1=C(C=C2CCC(C2=C1)=O)OC | C10H10O3
reactant | (4-nitrobenzyl)hydroxylamine hydrochloride | 0.73 mmol, 149 mg | Cl.[N+](=O)([O-])C1=CC=C(CNO)C=C1
reactant | pyridine | 7.74 mmol, 0.6 mL | N1=CC=CC=C1 | C5H5N
reactant | (E)-6,7-dimethoxy-3,4-dihydronaphthalen-1(2H)-one O-4-nitrobenzyl oxime | [N+](=O)([O-])C1=CC=C(CO\N=C\2/CCCC3=CC(=C(C=C23)OC)OC)C=C1 | C19H20N2O5
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (E)-6-Hydroxy-5-methoxy-2,3-dihydroinden-1-one O-4-Nitrobenzyl Oxime | 101 mg, 48% | [N+](=O)([O-])C1=CC=C(CO\N=C\2/CCC3=CC(=C(C=C23)O)OC)C=C1 | C17H16N2O5
